US09120749B2
cyclopropyl(6-(3,5-dichloro-4-hydroxyphenyl)-4-(3-(2-(pyrrolidin-1-yl)ethyl)phenylamino)quinolin-3-yl)methanone hydrochloride
Following general procedure F, (6-bromo-4-(3-(2-(pyrrolidin-1-yl)ethyl)phenylamino)quinolin-3-yl)(cyclopropyl)methanone (41 mg, 0.088 mmol) was reacted with 2,6-dichloro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenol (38 mg, 0.13 mmol) and the desired compound was dissolved in methanol (4 mL) and HCl (2 mL, 1.25 M in methanol). The mixture was concentrated to obtain the desired product (47 mg, 86% over two steps) as a yellow solid: 1H NMR (500 MHz, CD3OD) δ 9.45 (s, 1H), 8.22 (dd, J=8.8, 1.9 Hz, 1H), 8.02 (d, J=8.8 Hz, 1H), 7.88 (s, 1H), 7.65-7.58 (m, 1H), 7.57-7.54 (m, 1H), 7.48 (s, 1H), 7.41-7.31 (m, 1H), 7.20 (s, 2H), 3.69-3.65 (m, 2H), 3.45-3.38 (m, 2H), 3.19-3.12 (m, 2H), 3.11-3.07 (m, 2H), 2.93-2.86 (m, 1H), 2.15-2.11 (s, 2H), 2.05-2.01 (s, 2H), 1.24-1.16 (m, 4H); ESI MS m/z 546 [C31H29Cl2N3O2+H]+; HPLC 97.8% (AUC), tR=10.83 min.

reactant | (6-bromo-4-(3-(2-(pyrrolidin-1-yl)ethyl)phenylamino)quinolin-3-yl)(cyclopropyl)methanone | 0.088 mmol, 41 mg | BrC=1C=C2C(=C(C=NC2=CC1)C(=O)C1CC1)NC1=CC(=CC=C1)CCN1CCCC1 | C25H26BrN3O
reactant | 2,6-dichloro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenol | 0.13 mmol, 38 mg | ClC1=C(C(=CC(=C1)B1OC(C(O1)(C)C)(C)C)Cl)O | C12H15BCl2O3
solvent | methanol | 4 mL | CO | CH4O
product | cyclopropyl(6-(3,5-dichloro-4-hydroxyphenyl)-4-(3-(2-(pyrrolidin-1-yl)ethyl)phenylamino)quinolin-3-yl)methanone hydrochloride | Cl.C1(CC1)C(=O)C=1C=NC2=CC=C(C=C2C1NC1=CC(=CC=C1)CCN1CCCC1)C1=CC(=C(C(=C1)Cl)O)Cl | InChI=1S/C31H29Cl2N3O2.ClH/c32-26-16-22(17-27(33)31(26)38)21-8-9-28-24(15-21)29(25(18-34-28)30(37)20-6-7-20)35-23-5-3-4-19(14-23)10-13-36-11-1-2-12-36;/h3-5,8-9,14-18,20,38H,1-2,6-7,10-13H2,(H,34,35);1H
